US09278922B2
4-(bromomethyl)-1-chloro-2-nitrobenzene
To a solution of (4-chloro-3-nitrophenyl)methanol (5.0 g, 26.6 mmol) in toluene (100 mL) was added phosphorus tribromide (0.879 mL, 9.32 mmol) at 40° C. The reaction mixture was stirred at 100° C. for 15 mins and partitioned between water and ethyl acetate. The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound.

reactant | (4-chloro-3-nitrophenyl)methanol | 26.6 mmol, 5.0 g | ClC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C7H6ClNO3
reactant | phosphorus tribromide | 9.32 mmol, 0.879 mL | P(Br)(Br)Br | Br3P
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(bromomethyl)-1-chloro-2-nitrobenzene | BrCC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C7H5BrClNO2
